US06281227B1
D. [1(-3-Amino-4-cyanobenzyl)-2-oxopyrrolidin-3-(S)-yl]carbamic acid tert-butyl ester
(2-Oxopyrrolidin-3-(S)-yl) carbamic acid tert-butyl ester (1 g, 5 mmol) is dissolved in THF (100 mL) under nitrogen, and cooled to 0° C. Potassium-tert-butoxide (0.62 g, 5.5 mmol) is added in one portion to the vigorously stirring solution, followed by 18-crown-6 (10 mg, 0.038 mmol), and the reaction mixture allowed to warm to room temperature and stirred for 1 hour. The solution is cooled to 0° C. and 2-amino-4-(bromomethyl)benzonitrile (1.16 g, 5.5 mmol) added dropwise as a solution in THF (10 mL), before leaving the reaction mixture to warm to room temperature and stir overnight. The reaction is quenched with 0.25M HCl (20 mL), then neutralized with saturated aqueous NaHCO3, and brine added. The solution is extracted with ethyl acetate, and the organic phase dried over MgSO4, concentrated, and purified by column chromatograph on silica with 0.5-5% methanol/dichloromethane. The product fractions are combined, concentrated, and the semi-solid oily residue triturated with hexanes/dichloromethane=100/1 (25 mL). The product is isolated as a pale yellow powder (1.24 g, 3.75 mmol).

reactant | (2-Oxopyrrolidin-3-(S)-yl) carbamic acid tert-butyl ester | 5 mmol, 1 g | C(C)(C)(C)OC(N[C@@H]1C(NCC1)=O)=O | C9H16N2O3
reactant | Potassium-tert-butoxide | 5.5 mmol, 0.62 g | CC(C)([O-])C.[K+]
reactant | 2-amino-4-(bromomethyl)benzonitrile | 5.5 mmol, 1.16 g | NC1=C(C#N)C=CC(=C1)CBr | C8H7BrN2
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
catalyst | 18-crown-6 | 0.038 mmol, 10 mg | C1COCCOCCOCCOCCOCCO1 | C12H24O6
product | [1(-3-Amino-4-cyanobenzyl)-2-oxopyrrolidin-3-(S)-yl]carbamic acid tert-butyl ester | 3.75 mmol, 1.24 g | C(C)(C)(C)OC(N[C@@H]1C(N(CC1)CC1=CC(=C(C=C1)C#N)N)=O)=O | C17H22N4O3
